US08877944B2
4-[(Furan-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
To an equimolar solution of furan-2-carbaldehyde (250 mg, 2.6 mmol) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (473 mg, 2.6 mmol) in dichloromethane (14 mL) 1M titanium(IV) chloride in dichloromethane (1.3 mL, 1.3 mmol) and triethylamine (0.32 mL, 2.6 mmol) were added. The reaction mixture was stirred under nitrogen atmosphere for 2 days. Then sodium cyanoborohydride (493 mg, 7.8 mmol) in methanol (7 mL) was added dropwise with stirring and the solution was allowed to stir overnight at room temperature. 35% Sodium hydroxide was added and the product was extracted with ethyl acetate. The solvent was removed under reduce pressure and the crude was purified by flash chromatography (dichloromethane/methanol 95:5) to give the title compound as a red oil (406 mg, 56%).

reactant | furan-2-carbaldehyde | 2.6 mmol, 250 mg | O1C(=CC=C1)C=O | C5H4O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 2.6 mmol, 473 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 2.6 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 7.8 mmol, 493 mg | C(#N)[BH3-].[Na+]
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 1M, 14 mL | ClCCl | CH2Cl2
solvent | methanol | 7 mL | CO | CH4O
solvent | dichloromethane | 1.3 mmol, 1.3 mL | ClCCl | CH2Cl2
product | 4-[(Furan-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 406 mg, 56% | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC=1OC=CC1 | C15H24N2O3
